US04962115
A suspension of 10.69 parts of ethyl 4-amino-5-cyano-2-methoxybenzoate in 12 parts of a sodium hydroxide solution 50% and 500 parts of water was stirred and heated to 50° C. and stirring was continued for 1 hour at 50°-55° C. The reaction mixture was cooled and filtered. The filtrate was acidified with concentrated hydrochloric acid to pH 1-2. The precipitated product was filtered off, washed thoroughly with water and dried overnight at 80° C., yielding 8.6 parts (93.2%) of 4-amino-5-cyano-2-methoxybenzoic acid; mp. 236.7° C. (intermediate 111).

reactant | ethyl 4-amino-5-cyano-2-methoxybenzoate | NC1=CC(=C(C(=O)OCC)C=C1C#N)OC | C11H12N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-amino-5-cyano-2-methoxybenzoic acid | 93.2% | NC1=CC(=C(C(=O)O)C=C1C#N)OC | C9H8N2O3
